US04152441
A solution of 12 g (0.031 mol) of α-(2,4-dichlorophenyl)-α-(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol, 150 ml. of glacial acetic acid, 15 ml. of concentrated hydrochloric acid and 15 ml. of water was refluxed for 5 hours. The dark brown solution was concentrated and water was added to the residue. The mixture was then made alkaline by addition of ammonia and extracted with diethyl ether. The organic phase was separated off, decolorized with active charcoal, dried over sodium sulphate and the ether was distilled off. The solid residue was twice crystallised from acetone, rewashed with petroleum ether (boiling range 60°-80° C.) and once crystallised from isopropyl alcohol. α-(2,4-Dichlorophenyl)-α-(p-fluorophenyl)imidazole-2-methanol was obtained. Melting point 193.5°-194° C.

reactant | α-(2,4-dichlorophenyl)-α-(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol | 0.031 mol, 12 g | ClC1=C(C=CC(=C1)Cl)C(O)(C=1N(C=CN1)COC)C1=CC=C(C=C1)F | C18H15Cl2FN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | α-(2,4-Dichlorophenyl)-α-(p-fluorophenyl)imidazole-2-methanol | ClC1=C(C=CC(=C1)Cl)C(O)(C=1NC=CN1)C1=CC=C(C=C1)F | C16H11Cl2FN2O
